US07691882B2
3-(3-(3-Butoxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of (3-butoxy-phenyl)-acetohydroximoyl chloride (150 mg, 0.621 mmol) described in Manufacturing Example 65-1-4 and 3-ethynyl-pyridin-2,6-diamine (52.8 mg, 0.396 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (216 μL, 1.55 mmol). This mixture was stirred for 4 hours at room temperature. The mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:1˜ethyl acetate) to obtain the title compound (43 mg, 21%).

reactant | (3-butoxy-phenyl)-acetohydroximoyl chloride | 0.621 mmol, 150 mg | C(CCC)OC=1C=C(C=CC1)CC(=NO)Cl | C12H16ClNO2
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.396 mmol, 52.8 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 1.55 mmol, 216 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(3-Butoxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 43 mg, 21% | C(CCC)OC=1C=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=CC1 | C19H22N4O2
